US06720324B2
3-(4-(3-NITROPHENYL)-3,6-DIHYDRO-1(2H)-PYRIDINYL)-1-PROPANAMINE:
Into a stirred solution of 4.35 (12.0 mmol) of tert-butyl 3-(4-(3-nitrophenyl)-3,6-dihydro-1(2H)-pyridinyl)propylcarbamate in 100 ml of 1,4-dioxane at 0° C. was bubbled HCl gas for 10 minutes. The reaction mixture was allowed to warm to room temperature and the bubbling was continued for an additional 1 hour. The solvent was removed in vacuo, the residue was dissolved in 50 mL of water and was neutralized by the addition of KOH pellets. The aqueous solution was extracted with 3×80 mL of dichloromethane, the combined organic extracts were dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (silica, 9:1, dichloromethane:methanol+1% isopropyl amine) to afford 3.05 g (97.0% yield) of the desired product: 1H NMR (400 MHz, CDCl3) δ 8.24 (t, 1H, J=1.8 Hz), 8.09 (dd, 1H, J=1.8, 8.2 Hz), 7.69 (dd, 1H, J=1.8, 8.2 Hz), 7.48 (t, 1H, J=8.2 Hz), 6.24 (m, 1H), 3.21 (d, 2H, J=3.6 Hz), 2.84 (t, 2H, J=6.6 Hz), 2.75 (t, 2H, J=5.8 Hz), 2.64-2.54 (m, 4H), 1.76 (m, 2H); ESMS m/e: 262.2 (M+H)+; Anal. Calc. for C14H19N3O2 (0.06 CHCl3): C, 62.90; H, 7.16; N, 15.65. Found: C, 63.20; H, 7.16; N, 15.65.

reactant | tert-butyl 3-(4-(3-nitrophenyl)-3,6-dihydro-1(2H)-pyridinyl)propylcarbamate | [N+](=O)([O-])C=1C=C(C=CC1)C=1CCN(CC1)CCCNC(OC(C)(C)C)=O | C19H27N3O4
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-(4-(3-NITROPHENYL)-3,6-DIHYDRO-1(2H)-PYRIDINYL)-1-PROPANAMINE | 3.05 g, 97.0% yield | [N+](=O)([O-])C=1C=C(C=CC1)C=1CCN(CC1)CCCN | C14H19N3O2
